US08114872B2
N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-5-fluoro-4-(7-(2-fluoro-5-((methylamino)methyl)pyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine
Combine (6-fluoro-4-{2-[5-fluoro-2-(2-[1,2,3]triazol-1-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophen-7-yl}-pyridin-3-ylmethyl)-methyl-carbamic acid tert-butyl ester (0.30 g, 0.51 mmol) and dry TFA (2.0 mL) and dry DCM (2.2 mL). Stir at RT for 1 h. Evaporate off the solvents. Dilute the resulting residue with DCM and wash with saturated sodium bicarbonate solution, water, and saturated aqueous sodium chloride. Separate the organic layer and dry over magnesium sulfate. Filter and concentrate in vacuo to give the crude product. Purify by column chromatography [0.1% to 2% 2 M ammonia in methanol/DCM] to afford the title compound (0.20 g, 83%). MS (ES) m/z 479 [M+1]+.

reactant | (6-fluoro-4-{2-[5-fluoro-2-(2-[1,2,3]triazol-1-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophen-7-yl}-pyridin-3-ylmethyl)-methyl-carbamic acid tert-butyl ester | 0.51 mmol, 0.30 g | C(C)(C)(C)OC(N(C)CC=1C=NC(=CC1C1=CC=CC2=C1SC(=C2)C2=NC(=NC=C2F)NCCN2N=NC=C2)F)=O | C28H28F2N8O2S
reactant | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2.2 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-5-fluoro-4-(7-(2-fluoro-5-((methylamino)methyl)pyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine | 0.20 g, 83% | N1(N=NC=C1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C(=CC=C2)C2=CC(=NC=C2CNC)F)F | C23H20F2N8S
